US06340759B1
(252-3) 7-(4-Methoxyphenyl)-1,6-naphthyridine-5-(6H)-one
2-[2-(4-Methoxyphenyl)-2-hydroxyethenyl]-N-methylnicotinamide (2.509 g) was added to a 29% aqueous solution of ammonia (100 ml) and dioxane (50 ml), which was then heated in a sealed tube at 170° C. overnight. After cooling as it was, the resulting insoluble matters were collected by filtration, to give the title compound as a dark green solid (1.694 g, yield; 73%).

reactant | 2-[2-(4-Methoxyphenyl)-2-hydroxyethenyl]-N-methylnicotinamide | 2.509 g | COC1=CC=C(C=C1)C(=CC1=C(C(=O)NC)C=CC=N1)O | C16H16N2O3
reactant | ammonia | 100 ml | N | H3N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 7-(4-Methoxyphenyl)-1,6-naphthyridine-5-(6H)-one | 1.694 g, yield; 73% | COC1=CC=C(C=C1)C=1NC(C=2C=CC=NC2C1)=O | C15H12N2O2
